US07186715B2
4-[2-(2-Morpholin-4-yl-ethoxy)-phenyl]-piperazine-1-carboxylic acid tert-butyl ester
Diisopropyl azodicarboxylate (0.48 mL, 2.4 mmol) was added dropwise to a stirred solution of 4-(2-hydroxy-phenyl)-piperazine-1-carboxylic acid tert-butyl ester (0.56 g, 2 mmol), 2-morpholin-4-yl-ethanol (0.24 mL, 2 mmol) and triphenylphosphine (0.63 g, 2.4 mmol) in THF (20 mL) cooled to 0° C. The resulting solution was warmed to r.t. and stirred for about 16 hours. The solvent was removed in vacuo and the residue purified by silica gel chromatography (ethyl acetate) to afford the final compound (0.50 g, 64%) as a clear oil

reactant | Diisopropyl azodicarboxylate | 2.4 mmol, 0.48 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | 4-(2-hydroxy-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 2 mmol, 0.56 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=CC=C1)O | C15H22N2O3
reactant | 2-morpholin-4-yl-ethanol | 2 mmol, 0.24 mL | N1(CCOCC1)CCO | C6H13NO2
reactant | triphenylphosphine | 2.4 mmol, 0.63 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-[2-(2-Morpholin-4-yl-ethoxy)-phenyl]-piperazine-1-carboxylic acid tert-butyl ester | 0.50 g, 64% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=CC=C1)OCCN1CCOCC1 | C21H33N3O4
